US20010021718A1
(3R)-6-cyclohexyl-N-hydroxy-3-[3-(4-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanamide
A solution of (3R)-6-cyclohexyl-3-[3-(4-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanoic acid (Preparation 106) (380 mg, 0.96 mmol) in dichloromethane (10 ml) was treated with 1,1′-carbonyldiimidazole (156 mg, 0.96 mmol) and stirred under a nitrogen atmosphere for 1 hour. O-(Trimethylsilyl)hydroxylamine (388 μl, 2.89 mmol) was added and the mixture was stirred for 3.5 hours. The mixture was then treated with methanol (5 ml) and stirred at room temperature for 2 hours. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with water and brine, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with 95:5 (dichloromethane:methanol) to afford a white solid. Analysis suggests that 10% imidazole remains. The solid was dissolved in ethyl acetate and washed with water, dried over anhydrous magnesium sulphate, filtered and the solvent was removed under reduced pressure to afford the title compound as a white solid (128 mg).

reactant | (3R)-6-cyclohexyl-3-[3-(4-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 0.96 mmol, 380 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)CC1=CC=NC=C1 | C20H27N3O3
reactant | 1,1′-carbonyldiimidazole | 0.96 mmol, 156 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | O-(Trimethylsilyl)hydroxylamine | 2.89 mmol, 388 μl | C[Si](ON)(C)C | C3H11NOSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | (3R)-6-cyclohexyl-N-hydroxy-3-[3-(4-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanamide | 128 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)CC1=CC=NC=C1 | C20H28N4O3
